US06583162B1
t-Butyl (E)-3-(2-amino-5-chloro-3-pyridinyl)-2-propenoate
A mixture of 3-bromo-5-chloro-2-pyridinamine (C. W. Murtiashaw, R. Breitenbach, S. W. Goldstein, S. L. Pezzullo, J. Quallich, R. Sarges, J. Org. Chem., 1992, 57, 1930) (8.56 g, 41.4 mmol), t-butyl acrylate (12 ml, 82 mmol), tri-o-tolylphosphine (2.92 g. 9.6 mmol) and palladium acetate (540 mg, 2.4 mmol) in triethylamine (130 ml) was heated in a sealed bomb to 150° C. for 10 hours. The reaction mixture was filtered, the residue washed with EtOAc and the combined filtrates evaporated to a dark brown oil. Purification by column chromatography upon silica gel using hexane—EtOAc (7:3) as eluant and subsequent crystallisation from hexane at −78° C. gave the title compound as a bright yellow solid (4.75 g, 18.6 mmol).

reactant | 3-bromo-5-chloro-2-pyridinamine | 41.4 mmol, 8.56 g | BrC=1C(=NC=C(C1)Cl)N | C5H4BrClN2
reactant | t-butyl acrylate | 82 mmol, 12 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | tri-o-tolylphosphine | 9.6 mmol, 2.92 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | triethylamine | 130 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 2.4 mmol, 540 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | t-Butyl (E)-3-(2-amino-5-chloro-3-pyridinyl)-2-propenoate | 18.6 mmol, 4.75 g | NC1=NC=C(C=C1/C=C/C(=O)OC(C)(C)C)Cl | C12H15ClN2O2
